US09422292B2
To a solution of (R)-6-(5-chloropyridin-2-yl)-1,4-dimethyl-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine in 1,4-dioxane/H2O (10:1, 5 mL) were added 5-bromopyrazin-2-amine (69.33 mg, 0.40 mmol), Cs2CO3 (197.3 mg, 0.61 mmol) and Tetrakis(triphenylphosphine)palladium(0) (24.1 mg, 0.033 mmol). The mixture was purged with N2 and stirred in the microwave at 130° C. for 20 min. The reaction solution was concentrated and purified by prep-TLC (elute: DCM:CH3OH=15:1) to give (R)-5-(6-(5-chloropyridin-2-yl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyrazin-2-amine (110 mg, 59%).

reactant | (R)-6-(5-chloropyridin-2-yl)-1,4-dimethyl-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | ClC=1C=CC(=NC1)N1C2=C(N3C([C@@H](C1)C)=NN=C3C)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C23H27BClN5O2
reactant | 5-bromopyrazin-2-amine | 0.40 mmol, 69.33 mg | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | Cs2CO3 | 0.61 mmol, 197.3 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane H2O | 5 mL | O1CCOCC1.O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.033 mmol, 24.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-5-(6-(5-chloropyridin-2-yl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyrazin-2-amine | 110 mg, 59% | ClC=1C=CC(=NC1)N1C2=C(N3C([C@@H](C1)C)=NN=C3C)C=CC(=C2)C=2N=CC(=NC2)N | C21H19ClN8
